US05821240
4-Amino-2,6-dibromoaniline
20 g of 2,6-Dibromo-4-nitroaniline are taken up in 250 ml of ethanol, 250 ml of ethyl acetate, 100 ml of dimethylformamide and 90 ml of methylene chloride and, after addition of 3.3 g of 5% moist platinum/active carbon catalyst, hydrogenated at room temperature under 50 psi for one hour. The solvent is then distilled off in a rotary evaporator, and the residue is triturated with diethyl ether, filtered off with suction and washed several times with petroleum ether.

reactant | 2,6-Dibromo-4-nitroaniline | 20 g | BrC1=C(N)C(=CC(=C1)[N+](=O)[O-])Br | C6H4Br2N2O2
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | platinum | 3.3 g | [Pt] | Pt
product | 4-Amino-2,6-dibromoaniline | NC1=CC(=C(N)C(=C1)Br)Br | C6H6Br2N2
